US07582629B2
2-tert-Butyl-4-[(4-morpholin-4-yl-phenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A solution of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.400 g, 1.33 mmol) and 4-morpholinoaniline (0.476 g, 2.67 mmol) in DMF (4 mL) was heated at 140° C. for 15 mins in a microwave reactor. EtOAc was then added, and the resulting mixture was washed with brine and evaporated. The residue was purified by silica gel column chromatography using a 1:1 mixture of petroleum ether and EtOAc as eluant, to give the title compound (0.328 g, 56%) as a solid; 1H NMR (500 MHz, CDCl3): δ 7.23-7.18 (m, 1H), 7.15-7.09 (m, 4H), 6.62 (d, 2H), 6.52 (d, 2H), 3.83 (t, 4H), 3.00 (t, 4H), 1.79 (s, 9H); Mass Spectrum: M−H+ 440.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.33 mmol, 0.400 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 4-morpholinoaniline | 2.67 mmol, 0.476 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-tert-Butyl-4-[(4-morpholin-4-yl-phenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.328 g, 56% | C(C)(C)(C)N1S(C(=C(C1=O)NC1=CC=C(C=C1)N1CCOCC1)C1=CC=CC=C1)(=O)=O | C23H27N3O4S
